US07507740B2
(ii) Production of 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride
A mixture of tert-butyl {2-[4-({3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate (173 mg), 2N hydrochloric acid (2.5 mL) and tetrahydrofuran (5.0 mL) was stirred at 60° C. for 6 hrs. Ethanol was added to the reaction system. The solvent was evaporated under reduced pressure. Ethanol was added to the concentrate, and the mixture was further concentrated under reduced pressure. The residual crystals were collected by filtration and the crystals were washed with ethyl acetate to give the title compound (155 mg) as pale-yellow crystals.

reactant | tert-butyl {2-[4-({3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate | 173 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)OC(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCNC(OC(C)(C)C)=O | C26H25ClF3N5O4
reactant | hydrochloric acid | 2N, 2.5 mL | Cl | ClH
reactant | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | Ethanol | C(C)O | C2H6O
product | 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 155 mg | Cl.Cl.NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)OC(F)(F)F)Cl | InChI=1S/C21H17ClF3N5O2.2ClH/c22-16-10-13(29-20-19-17(27-12-28-20)6-8-30(19)9-7-26)4-5-18(16)31-14-2-1-3-15(11-14)32-21(23,24)25;;/h1-6,8,10-12H,7,9,26H2,(H,27,28,29);2*1H
